*
vin	Vin	0	AC	1V
Vdd	Vdd	0	DC	-5V
Vcc	Vcc	0	DC	5V
*
C3	vin	1	0.68u
R2	1	2	8.2k
R2a	2	3	4.1k
C3a	3	4	100n
C5	4	vout	47p
R3	4	vout	680k

*	V-	V+	out
Z1b	4	0	vout
