*
vin	Vin	0	AC	1V
Vdd	Vdd	0	DC	-5V
Vcc	Vcc	0	DC	5V
*
C20	vin	2	0.01UF
R19	0	2	1M
R1	0	3	3.3k
C1	3	4	0.047UF
C2	4	vout	100p
PR01	4	vout	vout	100k

*	V-	V+	out
Z1a	4	2	vout
